*
* NGSPICE simulation script
* BJT amp with feedback

*Four Square Circuit netlist

* forces current values to be saved
.options savecurrents

R1 6 5 1.02183054686k
R2 5 4 2.00519295062k
R3 8 5 3.01735849578k
R4 8 7 4.15136004156k
R5 3 8 3.04417402199k
R6 0 7 2.02196984898k
R7 1 9 1.00784334281k

Vaa 6 7 5.11339870586
Idd 2 3 1.0050415923m

Vnn 0 9 0

Gb 3 4 (5,8) 7.18106630963
Hc 8 1 Vnn 8.1227111635

.control

*makes plots in color
*set hcopypscolor=0
*set color0=white
*set color1=black
*set color2=red
*set color3=blue
*set color4=violet
*set color5=rgb:3/8/0
*set color6=rgb:4/0/0

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

echo  "op_TAB"
print all
echo  "op_END"

quit
.endc

.end

