*
* NGSPICE simulation script
* BJT amp with feedback

*Four Square Circuit netlist

* forces current values to be saved
.options savecurrents

R1 5 4 1.02183054686k
R2 4 3 2.00519295062k
R3 7 4 3.01735849578k
R4 7 6 4.15136004156k
R5 2 7 3.04417402199k
R6 6 0 2.02196984898k
R7 8 1 1.00784334281k

Vaa 5 6 5.11339870586
Idd 1 2 1.0050415923m

Vnn 0 8 0

Gb 2 3 (4,7) 7.18106630963m
Hc 7 1 Vnn 8.1227111635k

.control

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

echo  "op_TAB"
print all
echo  "op_END"

quit
.endc

.end

